US07138414B2
a) 5-(3-methoxy-4-nitrophenyl)-3H-[1,3,4]oxadiazol-2-one
1.2 equivalents of a 20% phosgene solution in toluene were added dropwise to the solution of 850 mg of 3-methoxy-4-nitrobenzoic hydrazide (m.p.: 158.2° C., prepared from methyl 3-methoxy-4-nitrobenzoate and hydrazine hydrate in isopropanol at 80° C.) in 25 ml of dioxane and the mixture was stirred at room temperature for 1 hour. After concentrating, the residue was recrystallized from isopropanol, filtered off with suction and dried under reduced pressure.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-methoxy-4-nitrobenzoic hydrazide | 850 mg | COC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C8H9N3O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 5-(3-methoxy-4-nitrophenyl)-3H-[1,3,4]oxadiazol-2-one | COC=1C=C(C=CC1[N+](=O)[O-])C1=NNC(O1)=O | C9H7N3O5
